US04788186
6-phenyl-3-(1-pyrrolidinyl)-1,2,4-triazolo[3,4-a]phthalazine
A mixture of 3-chloro-6-phenyl-1,2,4-triazolo[3,4-a]phthalazine (4.5 g), pyrrolidine (6 ml) and ethanol (40 ml) is poured in a steel cylinder and heated to 100° C. for 8 hours. Then the mixture is cooled, and concentrated to dryness by evaporating off the solvent. The obtained residue is washed with water and crystallized from ethanol giving 3.5 g of the compound of the title. M.p. 245°-47° C.

reactant | 3-chloro-6-phenyl-1,2,4-triazolo[3,4-a]phthalazine | 4.5 g | ClC1=NN=C2N1N=C(C1=CC=CC=C21)C2=CC=CC=C2 | C15H9ClN4
reactant | pyrrolidine | 6 ml | N1CCCC1 | C4H9N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-phenyl-3-(1-pyrrolidinyl)-1,2,4-triazolo[3,4-a]phthalazine | C1(=CC=CC=C1)C1=NN2C(C3=CC=CC=C13)=NN=C2N2CCCC2 | C19H17N5
